* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 470k
R5 N003 0 470k
V1 N001 0 7.5
R4 N002 N004 180
R1 N004 N003 10k
R3 N004 0 470k

.end